US08202858B2
{4-[3-(4-Cyclopropyl-piperazin-1-yl)-propoxy]-3-fluoro-phenyl}-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone
HBTU (325 mg, 0.9 mmol) and 4M HCl in dioxan (0.45 ml, 1.8 mmol) were added to a solution of 4-[3-(4-cyclopropyl-piperazin-1-yl)-propoxy]-3-fluoro-benzoic acid from Example E48.3 (230 mg, 0.7 mmol) in DMF (5 ml). The mixture was stirred at room temperature for 30 min. 3-Methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene from Example E65 (186 mg, 0.9 mmol) and DIEA (pH=9) were added and the mixture was stirred at room temperature for 18 h. The mixture was heated at 60° C. for 3 h then HBTU (300 mg, 0.8 mmol) was added. The mixture was heated at 60° C. for 2 days then solvents were removed in vacuo and azeotroped with toluene. The residue was redissolved in EtOAc, washed with saturated Na—HCO3 then brine, dried and concentrated in vacuo. The residue was purified by preparative HPLC (eluant; 0.5% 35% ammonia:9.5% methanol:90% dichloromethane) to give a brown solid identified as the title compound (55 mg, 15%).

reactant | HBTU | 0.9 mmol, 325 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HCl | 4M | Cl | ClH
reactant | dioxan | 1.8 mmol, 0.45 ml | O1CCOCC1 | C4H8O2
reactant | 4-[3-(4-cyclopropyl-piperazin-1-yl)-propoxy]-3-fluoro-benzoic acid | C1(CC1)N1CCN(CC1)CCCOC1=C(C=C(C(=O)O)C=C1)F | C17H23FN2O3
reactant | 3-Methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene | CN1N=CC=2CNC3=C(NC12)C=CC=C3 | C11H12N4
reactant | DIEA | pH=9 | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 0.8 mmol, 300 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | {4-[3-(4-Cyclopropyl-piperazin-1-yl)-propoxy]-3-fluoro-phenyl}-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone | 55 mg, 15% | C1(CC1)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)F | C28H33FN6O2
